US06127360
Synthesis of 7-(3-chloropropoxy)-3,4-dihydro-2H-1,4-benzothiazin-3-one
After a mixture consisting of 7-hydroxy-3,4-dihydro-2H-1,4-benzothiazin-3-one (1.812 g, 10 mmol), 1bromo-3-chloropropane (2.362 g, 15 mmol), potassium carbate (4.146 g, 30 mmol) and acetone (40 mmol) was heated under reflux and stirring for 24 hours, insolube matter was filtered off, and the solvent was distilled off under reduced pressure. The residue was subjected to chromatography on a silica gel column (developer: chloroform) to purify the same, and was then recrystallized from acetone. The title compound (1.300 g) was obtained as yellow leaflets (yield: 50.4%).

reactant | 7-hydroxy-3,4-dihydro-2H-1,4-benzothiazin-3-one | 10 mmol, 1.812 g | OC1=CC2=C(NC(CS2)=O)C=C1 | C8H7NO2S
reactant | 1bromo-3-chloropropane | 15 mmol, 2.362 g | BrCCCCl | C3H6BrCl
reactant | acetone | 40 mmol | CC(=O)C | C3H6O
product | 7-(3-chloropropoxy)-3,4-dihydro-2H-1,4-benzothiazin-3-one | 1.300 g, yield: 50.4% | ClCCCOC1=CC2=C(NC(CS2)=O)C=C1 | C11H12ClNO2S
